datasets/RMG-dataset.csv
rxn,Ea
[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]2[c:4]([c:5]1[H:13])[C:6]([H:14])([H:15])[C:7]1[C:8]([H:16])([H:17])[C:9]21[H:18]>>[c:0]1([H:10])[c:1]([H:11])[c:2]([H:12])[c:3]2[c:4]([c:5]1[H:13])[C:6]([H:14])([H:15])[C:7]1([H:16])[C:8]([H:17])[C:9]21[H:18],178.296976
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:10],19.874
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:9](=[C:10]([H:12])[H:13])[H:11])[H:5],20.6271
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:23][H:38],18.706664
[C:0]([O:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[H:15]>>[C:0]([O:1][H:15])([H:5])([H:6])[H:7].[C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8],95.9839
[C-:0]#[O+:1].[H:2][H:3]>>[C:0](=[O:1])([H:2])[H:3],343.506
[C:0]([H:1])[H:2].[C:3]([C:4]([C:5]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7]>>[C:0]([H:1])([H:2])[H:8].[C:3](=[C:4]([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])[H:7],0.0
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][C:14]([H:15])([H:16])[H:17],0.0
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10][H:11]>>[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[H:3][O:10][H:11],-4.35136
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:10]([H:11])([H:12])[H:13])[H:6],13.5143
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][H:18],10.8784
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13](=[C:14]=[C:15]([H:17])[H:18])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13](=[C:14]=[C:15]([H:17])[H:18])[H:16],43.0952
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]1([H:18])([H:19])[C:12]([H:20])([H:21])[C:13]2([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]1([H:27])[C:17]2([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[C:11]1([H:19])[C:12]([H:20])([H:21])[C:13]2([H:22])[C:14]([H:23])([H:24])[C:15]([H:25])([H:26])[C:16]1([H:27])[C:17]2([H:28])[H:29],82.4248
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],140.164
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[O:19][H:20]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][O:19][H:20],-3.7656
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[O:27][O:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:24][O:27][O:28],213.09112
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[H:17])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13]#[C:12][H:16])([C:15]([H:18])([H:19])[H:20])[H:17])[H:6],49.0783
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:5])[H:6],47.4466
